US07838675B2
i) 4-Chloro-2-[(3-chloro-2-fluorobenzyl)thio]-6-methoxypyrimidine
The subtitle compound was prepared according to the procedure outlined in example 35 Step (i) using 4,6-dichloro-2-[(3-chloro-2-fluorobenzyl)thio]pyrimidine (prepared according to patent WO 2004/011443) (0.65 g), methanol (8 mL) and 60% sodium hydride (88 mg). Yield: 0.57 g.

reactant | 4,6-dichloro-2-[(3-chloro-2-fluorobenzyl)thio]pyrimidine | 0.65 g | ClC1=NC(=NC(=C1)Cl)SCC1=C(C(=CC=C1)Cl)F | C11H6Cl3FN2S
reactant | sodium hydride | 88 mg | [H-].[Na+]
reactant | methanol | 8 mL | CO | CH4O
product | 4-Chloro-2-[(3-chloro-2-fluorobenzyl)thio]-6-methoxypyrimidine | ClC1=NC(=NC(=C1)OC)SCC1=C(C(=CC=C1)Cl)F | C12H9Cl2FN2OS
